US04150139
The reaction of 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepine-3-thione with benzyl bromide in the presence of sodium methoxide gave 3-benzylthio-11H-s-triazolo[3,4-b][3]benzazepine.

reactant | 2,11-dihydro-3H-s-triazolo[3,4-b][3]benzazepine-3-thione | N=1NC(N2C1CC1=C(C=C2)C=CC=C1)=S | C11H9N3S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium methoxide | C[O-].[Na+]
product | 3-benzylthio-11H-s-triazolo[3,4-b][3]benzazepine | C(C1=CC=CC=C1)SC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C18H15N3S
